US07375227B2
392F. 1-{2-[4-(3-Methyl-benzylidene)-piperidin-1-yl]-ethyl}-3-(2-methyl-quinolin-4-yl)-urea
To a suspension of LiAlH4 (100 mg, 2.6 mmol) in THF (40 mL) is added a solution of crude 1-{2-[4-(3-methyl-benzylidene)-piperidin-1-yl]-2-oxo-ethyl}3-(2-methyl-quinolin-4-yl)-urea (1 mmol) in THF (10 mL) and the mixture is stirred at room temperature for 15 h. The suspension is poured slowly into EtOAc (200 mL) and MeOH (10 mL) and, subsequently, sat. NaHCO3 (dropwise, total of 1.5 mL) is added. The precipitate is filtered off and washed with MeOH (2×20 mL). The filtrate is dried (Na2SO4), filtered and evaporated. The residue is purified by flash chromatography (SiO2, CH2Cl2-MeOH, 10:1) to provide the title compound.

reactant | LiAlH4 | 2.6 mmol, 100 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-{2-[4-(3-methyl-benzylidene)-piperidin-1-yl]-2-oxo-ethyl}3-(2-methyl-quinolin-4-yl)-urea | 1 mmol | CC=1C=C(C=C2CCN(CC2)C(CNC(=O)NC2=CC(=NC3=CC=CC=C23)C)=O)C=CC1 | C26H28N4O2
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | 1-{2-[4-(3-Methyl-benzylidene)-piperidin-1-yl]-ethyl}-3-(2-methyl-quinolin-4-yl)-urea | CC=1C=C(C=C2CCN(CC2)CCNC(=O)NC2=CC(=NC3=CC=CC=C23)C)C=CC1 | C26H30N4O
